US06605607B1
3-(tert-Butyloxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine
To a stirred mixture of 3-(tert-butyloxycarbonyl)-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine (7 g) and triethylamine (5.4 ml) in dry dichloromethane under argon at −20° C., was added, dropwise, trifluoromethanesulfonic anhydride (5 ml). The resulting mixture was allowed to warm slowly to 20° C. over 16 h, then was poured into saturated aqueous sodium bicarbonate (200 ml) and extracted with dichloromethane (2×150 ml). The combined organic extracts were washed with brine (150 ml), dried (Na2SO4) and evaporated in vacuo to give an amber oil. Silica gel chromatography, eluting with ethyl acetate in hexane (10%-30%) gave the title compound (7 g) as an amber oil.

reactant | 3-(tert-butyloxycarbonyl)-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 7 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)O | C15H21NO3
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(tert-Butyloxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 7 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C16H20F3NO5S
